US05216162
A. 3-Chloro-8,9,10,11-tetrahydro-8-[4-(methylsulfonyl)phenyl]-7H-pyrido[3',4':4,5]pyrrolo[3,2-c]quinoline
A mixture of 1.5 g (5.8 mmol) of 3-chloro-8,9,10,11-tetrahydro-7H-pyrido[3',4':4,5]pyrrolo[3,2-c]quinoline, 1.01 g (5.8 mmol) of p-fluorophenylmethylsulfone, 0.68 g (5.8 mmol) of 4-methylmorpholine N-oxide, 3.78 g (11.6 mmol) and 10 ml of dimethyl sulfoxide is stirred overnight at 80° C. The reaction mixture is allowed to cool and is diluted with water to yield a brown precipitate which is collected by filtration and dried. The crude product is purified by flash chromatography (6% methanol in chloroform) to yield 0.15 g (6%) of product as a tan solid: m.p. >250° C.

reactant | 3-chloro-8,9,10,11-tetrahydro-7H-pyrido[3',4':4,5]pyrrolo[3,2-c]quinoline | 5.8 mmol, 1.5 g | ClC1=CC=C2C3=C(C=NC2=C1)C1=C(N3)CCNC1 | C14H12ClN3
reactant | p-fluorophenylmethylsulfone | 5.8 mmol, 1.01 g | FC1=CC=C(C=C1)CS(=O)(=O)CC1=CC=C(C=C1)F | C14H12F2O2S
reactant | 4-methylmorpholine N-oxide | 5.8 mmol, 0.68 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3-Chloro-8,9,10,11-tetrahydro-8-[4-(methylsulfonyl)phenyl]-7H-pyrido[3',4':4,5]pyrrolo[3,2-c]quinoline | 0.15 g, 6% | ClC1=CC=C2C3=C(C=NC2=C1)C1=C(N3)CCN(C1)C1=CC=C(C=C1)S(=O)(=O)C | C21H18ClN3O2S
